US05736539
2(R)-tert-Butoxycarbonylaminohexanal
The title compound was prepareded according to the procedure described in Example 1, Step C, except using N-methoxy-N-methyl 2(R)-tert-butoxycarbonylaminohexanamide (4.08 g, 14.89 mmol), lithium aluminum hydride (0.621 g, 16.37 mmol), in ether (200 mL), followed by potassium hydrogen sulfate (4.05 g, 29.78 mmol) workup. The title compound was obtained as a clear oil, 3.28 g. NMR (CDCl3, 300 MHz) δ 9.6 (1H, s), 5.04 (1H, bs), 4.23 (1H, m), 1.15-2.0 (15H, m), 0.9 (3H, m).

reactant | N-methoxy-N-methyl 2(R)-tert-butoxycarbonylaminohexanamide | 14.89 mmol, 4.08 g | CON(C([C@@H](CCCC)NC(=O)OC(C)(C)C)=O)C | C13H26N2O4
reactant | lithium aluminum hydride | 16.37 mmol, 0.621 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | potassium hydrogen sulfate | 29.78 mmol, 4.05 g | S(=O)(=O)(O)[O-].[K+]
solvent | ether | 200 mL | CCOCC | C4H10O
product | 2(R)-tert-Butoxycarbonylaminohexanal | C(C)(C)(C)OC(=O)N[C@@H](C=O)CCCC | C11H21NO3
